US04622326
5-(4-Chlorobenzoyl)-1-ethyl-4-isopropylidenaminooxy-1H-pyrazolo[3,4-b]pyridine
Acetone oxime (1.6 g) was dissolved in 50 ml of THF and potassium t-butoxide (2.46 g) was added. After stirring 30 minutes 6.2 g of 4-chloro-5-(4-chlorobenzoyl)-1-ethyl-1H-pyrazolo[3,4-b]pyridine in 50 ml of THF was added to the solution. After 30 minutes of further stirring, the reaction mixture was distributed between ether and ammonium chloride solution. Drying and evaporation of the organic phase gave a solid which was recrystallized from ethanol to give 4.91 g of product, mp 112°-113° C.

reactant | Acetone oxime | 1.6 g | CC(C)=NO | C3H7NO
reactant | potassium t-butoxide | 2.46 g | CC(C)([O-])C.[K+]
reactant | 4-chloro-5-(4-chlorobenzoyl)-1-ethyl-1H-pyrazolo[3,4-b]pyridine | 6.2 g | ClC1=C2C(=NC=C1C(C1=CC=C(C=C1)Cl)=O)N(N=C2)CC | C15H11Cl2N3O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 5-(4-Chlorobenzoyl)-1-ethyl-4-isopropylidenaminooxy-1H-pyrazolo[3,4-b]pyridine | 4.91 g | ClC1=CC=C(C(=O)C=2C(=C3C(=NC2)N(N=C3)CC)ON=C(C)C)C=C1 | C18H17ClN4O2
